US05101072
Example 16: D. 1-Methyl- 1,2,2-tris(methylsulfonyl)hydrazine
To an ice-cold stirred solution of methylhydrazine (4.6 g, 0.1 mol) in dry pyridine (30 ml) was added methanesulfonyl chloride (44.6 g, 0.39 mol) dropwise, while maintaining the temperature between 0° and 10° C. The reaction mixture was left in a freezer (-10° C.) for 2 days. It was then triturated with a mixture of ice and concentrated hydrochloric acid (1:1, v/v, 100 ml). The precipitate that formed was collected, washed with cold water and dried. This product was stirred with chloroform (200 ml) and filtered. The undissolved material, consisting mainly of 1,2-bis(methylsulfonyl)-1-methylhydrazine, was discarded and the filtrate was treated with decolorizing carbon, filtered and evaporated to dryness in vacuo to give a yellow solid, which was crystallized twice from ethanol (Norit A) to give 5.1 g (18%) of the title compound: m.p. 123°-124° C.; anal. (C4H12N2O6S3) C,H,N; 1H NMR (acetone-d6) δ 3.6 [s, 6H, N2 (SO2CH3)2 ], 3.5 (s, 3H, N-CH3), 3.2 (s, 3H, N1SO2CH3).

reactant | methylhydrazine | 0.1 mol, 4.6 g | CNN | CH6N2
reactant | methanesulfonyl chloride | 0.39 mol, 44.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1-Methyl- 1,2,2-tris(methylsulfonyl)hydrazine | 5.1 g, 18% | CN(N(S(=O)(=O)C)S(=O)(=O)C)S(=O)(=O)C | C4H12N2O6S3
